US09062064B2
4.50 g (24.8 mmol) 6-methoxy-1,3-benzoxathiol-2-one was suspended in 56 mL methanol and mixed with 4.40 g (66.4 mmol) 85% potassium hydroxide, which had previously been dissolved in 11 mL methanol and 17 mL water. The suspension dissolved, forming a yellow color and was stirred for approximately 10 minutes (TLC control). After the end of the reaction the reaction mixture was cautiously acidified to a pH of 1 using 1N aqueous hydrochloric acid, the methanol was removed under a reduced pressure and the residue was extracted twice with ethyl acetate. The organic phases were combined and each was washed twice with water, saturated sodium chloride solution and again with water. After drying with sodium sulfate and removing the solvent under a reduced pressure, 3.55 g (92%) 5-methoxy-2-mercaptophenol was obtained as a light-yellowish fluid. The raw product (GCMS 100%, M=156) was used further without further purification.

reactant | 6-methoxy-1,3-benzoxathiol-2-one | 24.8 mmol, 4.50 g | COC1=CC2=C(SC(O2)=O)C=C1 | C8H6O3S
reactant | potassium hydroxide | 66.4 mmol, 4.40 g | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 56 mL | CO | CH4O
solvent | methanol | 11 mL | CO | CH4O
solvent | water | 17 mL | O | H2O
product | 5-methoxy-2-mercaptophenol | 3.55 g, 92% | COC=1C=CC(=C(C1)O)S | C7H8O2S
